US09359375B2
4-((1R,2S)-2-aminocyclohexylamino)-5-fluoro-2-(3-phenylisoxazol-5-ylamino)benzamide
To a solution of 4-((1R,2S)-2-aminocyclohexylamino)-5-fluoro-2-(3-phenylisoxazol-5-ylamino)benzonitrile in EtOH (1 mL) and DMSO (0.5 mL), 1N aq. NaOH (0.5 mL) and H2O2 (50% aq., 0.5 mL) were added. After being stirred at room temperature for 1 h, the mixture was concentrated in vacuo. The residue was acidified with HOAc (0.5 mL), and then was purified by HPLC to give the titled compound (33 mg). MS 410.3 (M+H); UV 204.7, 246.1, 287.8 nm.

reactant | 4-((1R,2S)-2-aminocyclohexylamino)-5-fluoro-2-(3-phenylisoxazol-5-ylamino)benzonitrile | N[C@@H]1[C@@H](CCCC1)NC1=CC(=C(C#N)C=C1F)NC1=CC(=NO1)C1=CC=CC=C1 | C22H22FN5O
reactant | EtOH | 1 mL | CCO | C2H6O
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
solvent | NaOH | 1N, 0.5 mL | [OH-].[Na+]
solvent | H2O2 | 0.5 mL | OO | H2O2
product | 4-((1R,2S)-2-aminocyclohexylamino)-5-fluoro-2-(3-phenylisoxazol-5-ylamino)benzamide | 33 mg | N[C@@H]1[C@@H](CCCC1)NC1=CC(=C(C(=O)N)C=C1F)NC1=CC(=NO1)C1=CC=CC=C1 | C22H24FN5O2
